US04987152
In 1,000 ml of acetonitrile was suspended 17 g of 5-{2-[2-(2-ethoxyphenoxy)ethylamino]-1-hydroxyethyl}-2-methoxybenzenesulfonamide hydrochloride and while stirring the suspension, 9 g of thionyl chloride was added dropwise to the suspension at room temperature, whereby the product was dissolved and then began to be crystallize gradually. After stirring the mixture for two days, the crystals formed were recovered by filtration, washed with chloroform and dried to provide 15 g of 5-{1-chloro-2-[2-(2-ethoxyphenoxy)ethylamino]-2-methylethyl}-2-methoxybenzenesulfonamide hydrochloride.

reactant | 5-{2-[2-(2-ethoxyphenoxy)ethylamino]-1-hydroxyethyl}-2-methoxybenzenesulfonamide hydrochloride | 17 g | Cl.C(C)OC1=C(OCCNCC(O)C=2C=CC(=C(C2)S(=O)(=O)N)OC)C=CC=C1
reactant | thionyl chloride | 9 g | S(=O)(Cl)Cl | Cl2OS
reactant | acetonitrile | 1,000 ml | C(C)#N | C2H3N
product | 5-{1-chloro-2-[2-(2-ethoxyphenoxy)ethylamino]-2-methylethyl}-2-methoxybenzenesulfonamide hydrochloride | 15 g | Cl.ClC(C(C)NCCOC1=C(C=CC=C1)OCC)C=1C=CC(=C(C1)S(=O)(=O)N)OC | InChI=1S/C20H27ClN2O5S.ClH/c1-4-27-16-7-5-6-8-17(16)28-12-11-23-14(2)20(21)15-9-10-18(26-3)19(13-15)29(22,24)25;/h5-10,13-14,20,23H,4,11-12H2,1-3H3,(H2,22,24,25);1H
